US07674804B2
[2,4-Dichloro-6-(piperidin-4-ylamino)-pyrimidin-5-yl]-acetic acid ethyl ester dihydrochloride
A solution of 4-(2,6-dichloro-5-ethoxycarbonylmethyl-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.87 g, 2.01 mmol) in dichloromethane (10 mL) and 4 M HCl in dioxane (40 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 333.1 [M+H]+.

reactant | 4-(2,6-dichloro-5-ethoxycarbonylmethyl-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.01 mmol, 0.87 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC(=C1CC(=O)OCC)Cl)Cl | C18H26Cl2N4O4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | [2,4-Dichloro-6-(piperidin-4-ylamino)-pyrimidin-5-yl]-acetic acid ethyl ester dihydrochloride | Cl.Cl.C(C)OC(CC=1C(=NC(=NC1NC1CCNCC1)Cl)Cl)=O | InChI=1S/C13H18Cl2N4O2.2ClH/c1-2-21-10(20)7-9-11(14)18-13(15)19-12(9)17-8-3-5-16-6-4-8;;/h8,16H,2-7H2,1H3,(H,17,18,19);2*1H
